US07192956B2
5-(4,4-diethyl-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-1-methyl-1H-pyrrole-2-carbonitrile (0.5 g, 1.6 mmol) and Lawesson's Reagent (0.33 g, 0.81 mmol) were heated to 100° C. in toluene (20 mL). Upon completion by TLC, the reaction was poured into saturated sodium carbonate (100 mL) and extracted with ethyl acetate (50 mL), dried over magnesium sulfate, and concentrated. The purification with column gave 5-(4,4-diethyl-2-thioxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-1-methyl-1H-pyrrole-2-carbonitrile (0.040 g, 8%) as a tan solid. 1H NMR (DMSO-d6): δ 12.15 (s, 1H), 7.44 (d, 1H, J=8.3, 1.8 Hz), 7.37 (d, 1H, J=1.8 Hz), 7.12 (d, 1H, J=8.3 Hz), 7.04 (d, 1H, J=4.03 Hz), 6.35 (d, 1H, J=4.2 Hz), 3.7 (s, 3H), 2.07 (m, 2H, J=7.4 Hz), 1.95 (m, 2H, J=7.4 Hz), 0.79 (t, 6H, J=7.4 Hz). MS (ESI) m/z 326 ([M+H]+); MS (ESI) m/z 324 ([M−H]−). HRMS: calcd for C18H19N3OS, 325.1249; found (ESI_FT), 326.13187.

reactant | 5-(4,4-diethyl-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-1-methyl-1H-pyrrole-2-carbonitrile | 1.6 mmol, 0.5 g | C(C)C1(OC(NC2=C1C=C(C=C2)C2=CC=C(N2C)C#N)=O)CC | C18H19N3O2
reactant | Lawesson's Reagent | 0.81 mmol, 0.33 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | sodium carbonate | 100 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(4,4-diethyl-2-thioxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-1-methyl-1H-pyrrole-2-carbonitrile | 0.040 g, 8% | C(C)C1(OC(NC2=C1C=C(C=C2)C2=CC=C(N2C)C#N)=S)CC | C18H19N3OS
